* E:\Documents\Masters\Project\Simulation\GeecHalf-Bridge.asc
* Generated by LTspice 24.1.9 for Windows.
D1 +12V N001 MBRS360
C1 N001 Mot 0.1µ V=100 Irms=1.2 Rser=0.0758696 Lser=0 mfg="KEMET" pn="C1206C104K1RAC" type="X7R"
V1 Vin 0 27
R1 Mot N007 1m tol=1 pwr=3
L5 N008 out 70µ Rser=0.103
C3 out RetMot 20µ
R3 N011 0 40.2K tol=1 pwr=0.1
C2 Cbulk 0 470µ V=50 Irms=1.776 Rser=0.0575 Lser=6.978n mfg="Würth Elektronik" pn="860160678030 WCAP-ATLL 13x20" type="Al electrolytic"
R4 +12V N002 10
R5 +12V N006 51k
V2 +12V 0 12
V3 +3V3 0 3.3
V4 PWMIN 0 PULSE(0 3.3 0 1n 1n {1/(FREQ*1.01)} {1/FREQ})
V5 N003 0 PULSE(0 3.3 1m 1n 1n 4m)
X§U2 Cbulk Mot RetMot N004 N009 ISG0613N04NM6H_L1
X§U3 PWM N003 N006 N011 N002 +12V RetMot N009 Mot N004 N001 0 LTC7063
X§U1 N013 0 0 N014 +3V3 Vref1 N012 AD8411A
A1 0 D-Q 0 PWMIN 0 0 PWM 0 AND Vhigh=3.3 Vlow=0
R2 out RetMot 2
R10 COMP N015 100k
R8 N015 V_Iref 330
V7 V_Iref 0 PULSE(0.5476 1.5 1.5m 1m 1n 1m 5m)
V9 Clock 0 PULSE(0 3.3 0 1n 1n 1u {1/FREQ})
X§U4 +3V3 N017 NC_01 Iiso Iiso2 0 0 N020 N020 Iout Vref1 N019 +3V3 ADuM3190
C6 N019 0 1µ
C7 +3V3 0 1µ
C8 +3V3 0 1µ
C9 N017 0 1µ
R9 +3V3 Iiso 10k
R11 N014 Iout 10k
C10 0 Iout 22p
A2 +3V3 0 Clock 0 CLR 0 D-Q 0 DFLOP Vhigh=3.3 Vlow=0
A3 COMP 0 0 0 0 CLR 0 0 BUF Vhigh=3.3 Vlow=0
L1 NC_08 NC_09 20n Rser=10m
L2 0 RetMot 5n
X§U6 N015 Iiso2 +3V3 0 COMP MAX9095
R12 +3V3 COMP 10k
D2 RetMot Mot UFZV36B
D3 RetMot Cbulk UFZV36B
L3 N007 N008 47µ Ipk=32 Rser=0.00567 Rpar=13284 Cpar=14.992p mfg="Würth Elektronik" pn="7443763540470 WE-HCFT 3540"
C11 NC_10 NC_11 30n
C12 0 NC_12 1n
C13 NC_13 0 1n
R13 Mot N012 10
R14 N007 N013 10
C14 NC_14 NC_15 1µ V=16 Irms=0 Rser=11 Lser=0 mfg="AVX" pn="TAJA105K016" type="Tantalum"
X§U5 +12V 0 0 N018 0 Gate Gate Cbulk N016 LTC7004
D4 +12V N016 MBRS360
C15 N016 Cbulk 0.1µ V=100 Irms=1.2 Rser=0.0758696 Lser=0 mfg="KEMET" pn="C1206C104K1RAC" type="X7R"
M1 Vin Gate Cbulk Cbulk IPB016N06L3
M2 Vin Gate Cbulk Cbulk IPB016N06L3
R15 Vin Cbulk 1
X§C16 Cbulk 0 1210X7R_10uF_885012209028 n=64
V6 N018 0 PULSE(0 5 2m 10n 10n 10 10.02)
.model D D
.lib C:\Users\conor\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\conor\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 4m 1m startup
.INCLUDE MOSFETS\OptiMOS6\OptiMOS6_40V_Halfbridges_LTSpice.lib
.options reltol=1e-3 abstol=5u
.INCLUDE ADuM3190\ADuM3190B.sub
.param FREQ=30k
* Gate DRIVE
* OUTPUT & CSA
* Gate DRIVE
* INPUT
* Current Limiting
* I_cut: V7 = 0.0492(I_Shunt) + 1.225/2
.meas TRAN E_out INTEG V(out)*I(R2) FROM 1.5ms TO 2.5ms
.meas TRAN E_in INTEG V(Vin)*I(V1) FROM 1.5ms TO 2.5ms
.lib AD8411A.sub
.lib Contrib/Wurth/WCAP-CSGP_25V_DCbias.lib
.lib LTC7004.sub
.lib LTC7063.sub
.lib MAX9095.sub
.backanno
.end
