* C:\Users\conor\Documents\College\Masters\Thesis\GeecPE2526\Simulation\GeecHalf-Bridge.asc
* Generated by LTspice 24.1.8 for Windows.
D1 +12V N001 MBRS360
C1 N001 Mot 1µ V=50 Irms=0 Rser=0.0444 Lser=799p mfg="Würth Elektronik" pn="885012209047 WCAP-CSGP 1210" type="X7R"
V1 Vin 0 27
R1 Mot N007 1m tol=1 pwr=3
L5 N008 out 70µ Rser=0.103
C3 out RetMot 20µ
R3 N011 0 10k tol=1 pwr=0.1
C2 Cbulk 0 10000µ V=63 Irms=4.69 Rser=0.0175 Lser=20.255n mfg="Würth Elektronik" pn="861140786024 WCAP-AI3H 35x52" type="Al electrolytic"
C4 Cbulk 0 10µ V=50 Irms=0 Rser=0.003 Lser=1.2n mfg="Würth Elektronik" pn="885012214005 WCAP-CSGP 2220" type="X7R"
C5 Cbulk 0 75µ V=900 Irms=25.7 Rser=0.0043 Lser=41n mfg="Würth Elektronik" pn="890724429010CS WCAP-FTDB 52.5x57x65x45x4" type="Box"
R4 +12V N002 10
R5 +12V N006 51k
V2 +12V 0 12
V3 +3V3 0 3.3
V4 PWMIN 0 PULSE(0 3.3 0 1n 1n {1/(FREQ*1.01)} {1/FREQ})
V5 N003 0 PULSE(0 3.3 1m 1n 1n 4m)
X§U2 Cbulk Mot RetMot N004 N009 ISG0613N04NM6H_L1
X§U3 PWM N003 N006 N011 N002 +12V RetMot N009 Mot N004 N001 0 LTC7063
X§U1 N013 0 0 N014 +3V3 Vref1 N012 AD8411A
A1 0 D-Q 0 PWMIN 0 0 PWM 0 AND Vhigh=3.3 Vlow=0
R2 out RetMot 2
R10 COMP N015 100k
R8 N015 V_Iref 330
V7 V_Iref 0 PULSE(0.5476 1.5 1.5m 1m 1n 1m 5m)
V9 Clock 0 PULSE(0 3.3 0 1n 1n 1u {1/FREQ})
X§U4 +3V3 N016 NC_01 Iiso Iiso2 0 0 N018 N018 Iout Vref1 N017 +3V3 ADuM3190
C6 N017 0 1µ
C7 +3V3 0 1µ
C8 +3V3 0 1µ
C9 N016 0 1µ
R9 +3V3 Iiso 10k
R11 N014 Iout 10k
C10 0 Iout 22p
A2 +3V3 0 Clock 0 CLR 0 D-Q 0 DFLOP Vhigh=3.3 Vlow=0
A3 COMP 0 0 0 0 CLR 0 0 BUF Vhigh=3.3 Vlow=0
L1 Vin Cbulk 20n Rser=10m
L2 0 RetMot 5n
X§U6 N015 Iiso2 +3V3 0 COMP MAX9095
R12 +3V3 COMP 10k
D2 RetMot Mot UFZV36B
D3 RetMot Cbulk UFZV36B
L3 N007 N008 47µ Ipk=32 Rser=0.00567 Rpar=13284 Cpar=14.992p mfg="Würth Elektronik" pn="7443763540470 WE-HCFT 3540"
C11 NC_08 NC_09 30n
C12 0 NC_10 1n
C13 NC_11 0 1n
R13 Mot N012 10
R14 N007 N013 10
.model D D
.lib C:\Users\conor\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 4m 1m
.INCLUDE MOSFETS\OptiMOS6\OptiMOS6_40V_Halfbridges_LTSpice.lib
.options reltol=1e-3 abstol=5u
.INCLUDE ADuM3190\ADuM3190B.sub
.param FREQ=30k
* Gate DRIVE
* OUTPUT & CSA
* Gate DRIVE
* INPUT
* Current Limiting
* I_cut: V7 = 0.0492(I_Shunt) + 1.225/2
.meas TRAN E_out INTEG V(out)*I(R2) FROM 1.5ms TO 2.5ms
.meas TRAN E_in INTEG V(Vin)*I(V1) FROM 1.5ms TO 2.5ms
* DeadTime = R_dt * 0.44ns + 32ns
.lib AD8411A.sub
.lib LTC7063.sub
.lib MAX9095.sub
.backanno
.end
